US08748446B2
Synthesis of 3,4,5-tribromophenylhydrazine
3,4,5-Tribromoaniline was obtained by the procedure of L. F. Tietze and T. Eicher (L. F. Tietze, T. Eicher. Reaktionen und Synthesen im organisch-chemischen Praktikum und Forschungslaboratorium. (1991) Georg Thieme Verlag, Stuttgart, New York). 7.8 g (24 mmol) of 3,4,5-tribromoaniline were stirred with a solution of 6.5 mL of concentrated hydrochloric acid and 6.5 mL of water. The mixture was cooled to about −10° C. and at this temperature the solution of 2.76 g of NaNO2 in 11 mL of water was added for 20 min with intensive stirring. The reaction mixture was stirred for 30 min at −10° C. Then the cooled solution of 16.2 g of SnCl2·2H2O in 17 mL of concentrated HCl was added dropwise at −10° C. to the suspension of diazocompound. The reaction mixture was kept at −10° C. for one hour and at 5° C. overnight. The obtained precipitate was filtered off and washed with water. The residue was resuspended in 50 mL of water and concentrated aqueous solution of NaOH was added to get alkaline medium. The 3,4,5-tribromophenylhydrazine was extracted with ether. Organic layer was dried with MgSO4 and ether was evaporated. Yield: 5.5 g (67%). 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 7.09 (2H, s, arom.), 7.34 (1H, s, NH), 4.19 (2H, d, NH2).

reactant | 3,4,5-tribromoaniline | 24 mmol, 7.8 g | BrC=1C=C(N)C=C(C1Br)Br | C6H4Br3N
reactant | NaNO2 | 2.76 g | N(=O)[O-].[Na+]
reactant | SnCl2·2H2O | 16.2 g | O.O.Cl[Sn]Cl
solvent | water | 11 mL | O | H2O
solvent | HCl | 17 mL | Cl | ClH
solvent | water | 6.5 mL | O | H2O
solvent | hydrochloric acid | 6.5 mL | Cl | ClH
product | 3,4,5-tribromophenylhydrazine | BrC=1C=C(C=C(C1Br)Br)NN | C6H5Br3N2
